US07465730B2
Using the general procedure outlined in EXAMPLE 1, 3-acetyl-2,5-dimethyl-1-(4-hydroxy-2-methoxyphenyl)pyrrole (1.37 g, 5.3 mmol) and an excess of bromoethane (2.0 mL) reacted to give 3-acetyl-2,5-dimethyl-1-(4-ethoxy-2-methoxyphenyl)pyrrole as a tan solid: 1H NMR (CDCl3, 500 MHz) δ 6.99 (d, 1H), 6.59 (d, 1H), 6.53 (dd, 1H), 6.31 (s, 1H), 4.08 (q, 2H), 3.74 (s, 3H), 2.41 (s, 3H), 2.25 (s, 3H), 1.93 (s, 3H), 1.46 (t, 3H); MS (ESI) 288 (M+H)+.

reactant | 3-acetyl-2,5-dimethyl-1-(4-hydroxy-2-methoxyphenyl)pyrrole | 5.3 mmol, 1.37 g | C(C)(=O)C1=C(N(C(=C1)C)C1=C(C=C(C=C1)O)OC)C | C15H17NO3
reactant | bromoethane | 2.0 mL | BrCC | C2H5Br
product | 3-acetyl-2,5-dimethyl-1-(4-ethoxy-2-methoxyphenyl)pyrrole | C(C)(=O)C1=C(N(C(=C1)C)C1=C(C=C(C=C1)OCC)OC)C | C17H21NO3
